US08669266B2
(i) 4-((S)-2-Benzyloxycarbonylamino-3-tert-butoxycarbonyl-propionyl)-piperazine-1-carboxylic acid ethyl ester
To a solution of 25 g of (S)-2-Benzyloxycarbonylamino-succinic acid 4-tert-butyl ester, 35.6 g of NEM and 25.3 g of TOTU in 125 ml of DMF, 12.9 g of Piperazine-1-carboxylic acid ethyl ester was added at RT and stirred for 3 h. The reaction mixture was diluted saturated aqueous sodium hydrogen carbonate solution and extracted with 400 ml of ethyl acetate. The organic phase was washed with diluted saturated aqueous sodium hydrogen carbonate solution and dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was purified by chromatography on silica gel eluting with n-heptane/ethyl acetate (1/1). The fractions containing the product were combined and the solvent evaporated under reduced pressure. Yield: 35.4 g.

reactant | (S)-2-Benzyloxycarbonylamino-succinic acid 4-tert-butyl ester | 25 g | C(C)(C)(C)OC(C[C@@H](C(=O)O)NC(=O)OCC1=CC=CC=C1)=O | C16H21NO6
reactant | TOTU | 25.3 g | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | Piperazine-1-carboxylic acid ethyl ester | 12.9 g | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 125 ml | CN(C)C=O | C3H7NO
product | 4-((S)-2-Benzyloxycarbonylamino-3-tert-butoxycarbonyl-propionyl)-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CC(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1)=O | C23H33N3O7
